US04096267
Preparation of [1-Oxo-2-(4-aminophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid
[1-Oxo-2-methyl-2-(4-nitrophenyl)-6,7-dichloro-5-indanyloxy]acetic acid (6.11 g., 0.015 mole) in absolute ethanol (250 ml.)-36N sulfuric acid (2 ml.) is catalytically hydrogenated over 5% palladium on carbon (500 mg.) in a Parr apparatus. After one hour, the reaction mixture is filtered, then concentrated in vacuo to a 50 ml. volume. Water (200 ml.) is added to precipitate the ethyl ester which is hydrolyzed by refluxing in ethanol (200 ml.), 10N sodium hydroxide solution (4.5 ml., 0.045 mole) and water (100 ml.) for 1.5 hours. The reaction mixture is cooled, concentrated to 1/3 its volume, filtered, then neutralized with 6N hydrochloric acid to precipitate 1.09 g. of [1-oxo-2-(4-aminophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid which melts at 235°-236° C. dec.

reactant | [1-Oxo-2-methyl-2-(4-nitrophenyl)-6,7-dichloro-5-indanyloxy]acetic acid | 0.015 mole, 6.11 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C1=CC=C(C=C1)[N+](=O)[O-])C | C18H13Cl2NO6
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 0.045 mole, 10N, 4.5 ml | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | ethanol | -36N, 250 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
product | [1-Oxo-2-(4-aminophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1=CC=C(C=C1)N | C18H15Cl2NO4
